US04284562
A mixture of 13.9 g (0.08 mol) of sodium dithionite in 20 ml of water and 5 ml of ethanol was heated to 55° C. under argon. A 4.8 g (0.02 mol) sample of 1,4-dimethyl-α-trichloromethylpyrrole-2-methanol was added in one portion. A solution of 6.7 g (0.12 mol) of KOH in 20 ml of water was added dropwise over 20 mins. The reaction was stirred for 70 more mins. at 55°. It was cooled and acidified with concentrated HCl. Sodium chloride was added. The mixture was extracted three times with ether. The ether solution was washed with brine, dried (MgSO4) and evaporated to give 2.1 g (69%) yield of a yellow oil, primarily 1,4-dimethylpyrrole-2-acetic acid by TLC. Final purification was effected by chromatography on silica gel using a 50:50 mixture of hexane: 1,1,1-trichloroethane as eluant. Evaporation of the compound bearing fraction and recrystallization from ether, hexane afforded white crystals, mp 86°- 87° C. (d). The mp was undepressed by admixture with authentic material.

reactant | sodium dithionite | 0.08 mol, 13.9 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | 1,4-dimethyl-α-trichloromethylpyrrole-2-methanol | CN1C(=CC(=C1)C)C(O)C(Cl)(Cl)Cl | C8H10Cl3NO
reactant | KOH | 0.12 mol, 6.7 g | [OH-].[K+]
reactant | HCl | Cl | ClH
reactant | Sodium chloride | [Cl-].[Na+]
solvent | water | 20 ml | O | H2O
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
product | 1,4-dimethylpyrrole-2-acetic acid | CN1C(=CC(=C1)C)CC(=O)O | C8H11NO2
